US08383650B2
D: Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester
To a solution of piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-dimethyl ester (6.8 g, 22.5 mmol) in MeOH/water (4:1, 120 mL) is added K2CO3 (9.4 g, 68 mmol). The reaction mixture is stirred at reflux overnight. The MeOH is evaporated and the residue is extracted with dicholoromethane and 1N aq. HCl. The organic phase is dried over Na2SO4, filtered and evaporated to give a light yellow solid. MS (LC-MS): 274 [M+H]+.

reactant | piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-dimethyl ester | 22.5 mmol, 6.8 g | COC(=O)C1CN(CC(C1)C(=O)OC)C(=O)OC(C)(C)C | C14H23NO6
reactant | K2CO3 | 68 mmol, 9.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH water | 120 mL | CO.O
product | Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC(C1)C(=O)O)C(=O)O | C12H19NO6
